US07468375B2
Step 2: 1-(4-Fluorobenzyl)-3-(methoxymethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid
To a solution of methyl 1-(4-fluorobenzyl)-3-(methoxymethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate. (960 mg 1.2.924 mmol) in methanol (10 mL) was added lithium hydroxide monohydrate (246 mg 5.847 mmol, 2 eq.) and water (5 mL), and the clear solution was warmed to 40° C. for 15 hours. Methanol was removed under vacuum and 1 M HCl added (5.8 mL 5.847 mmol, 2 eq.). The crude product precipitated and was filtered under vacuum, washed with ether (40 ml) and dried in vacuo at 75° C. to give the title product as a white powder 664 mg (72%). LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—3 minutes, ESI, +mode): RT-0.828 min, m/e=315.2 (M+H+, base). 1H-NMR (300 MHz, DMSO): δ=3.28 (s, 3H), 4.64 (s, 2H), 5.62 (s, 2H), 7.20 (t, 2H), 7.38 (m, 2H), 7.94 (s, 1H), 8.36 (s, 1H), 8.97 (s, 1H).

reactant | methyl 1-(4-fluorobenzyl)-3-(methoxymethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)COC)C=C1 | C18H17FN2O3
reactant | lithium hydroxide monohydrate | 5.847 mmol, 246 mg, 2 eq. | O.[OH-].[Li+]
reactant | water | 5 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 1-(4-Fluorobenzyl)-3-(methoxymethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 664 mg, 72% | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)COC)C=C1 | C17H15FN2O3
